US04070380
A stirred mixture of 5-(4-cyanophenyl)-2-furaldehyde oxime (16 g, 0.075 mole) and benzene (400 ml) was heated to reflux and a solution of POCl3 (4 ml) in benzene (20 ml) was added dropwise over 15 minutes. The mixture was refluxed for 11/2 hours and filtered while hot. The filtrate was washed with 5% NaHCO3 (500 ml), H2O (500 ml), dried over MgSO4 and Darco and filtered. The filtrate was stripped of solvent under reduced pressure to yield 10 g (69%) of 5-(4-cyanophenyl)-2-furonitrile.

reactant | 5-(4-cyanophenyl)-2-furaldehyde oxime | 0.075 mole, 16 g | C(#N)C1=CC=C(C=C1)C1=CC=C(O1)C=NO | C12H8N2O2
reactant | POCl3 | 4 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 5-(4-cyanophenyl)-2-furonitrile | 10 g, 69% | C(#N)C1=CC=C(C=C1)C1=CC=C(O1)C#N | C12H6N2O
